US07732452B2
First step: rac-4-(2-Chloro-propionylamino)-thiophene-3-carboxylic acid methyl ester
To a suspension of 4-amino-thiophene-3-carboxylic acid methyl ester (2.0g) in dichloromethane (25 mL) was added 2-chloropropionyl chloride (1.13 mL). The reaction mixture was then cooled down to −15° C. and a solution of triethylamine (3.2 mL) in dichloromethane (5 mL) was slowly added over 30 minutes. After such time the reaction mixture was allowed to warm up to room temperature, and the solution was washed twice with water, dried over sodium sulfate and then concentrated in vacuo. The residue was purified by column chromatography to yield the title compound as a light yellow solid (2.1g, 82%). MS (EI): 247.0.

reactant | 4-amino-thiophene-3-carboxylic acid methyl ester | 2.0g | COC(=O)C1=CSC=C1N | C6H7NO2S
reactant | 2-chloropropionyl chloride | 1.13 mL | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | triethylamine | 3.2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | rac-4-(2-Chloro-propionylamino)-thiophene-3-carboxylic acid methyl ester | 2.1g, 82% | COC(=O)C1=CSC=C1NC(C(C)Cl)=O | C9H10ClNO3S
